US04123459
Thirty one grams (0.1 mole) of product prepared as in Example I-B is mixed with 200 mls water. Thirty grams (0.4 mole) calcium hydroxide is added slowly while the pH of the reaction medium is maintained at 10-10.5 and the temperature is kept between 70° and 75° C. After the addition of calcium hydroxide is complete, the reaction mixture is stirred at 75° C. for an additional two hours and then cooled. 90 grams of a 20% by weight hydrochloric acid solution is added slowly to a pH of 1.3 and the resulting solution is then filtered. The filtrate is evaporated to dryness in vacuo and the residue extracted with acetone. The acetone extract is filtered and 19.5 grams of product consisting of 53.5% (60% yield) transaconitic acid and 5.8% of a mixture of lactones of isocitric acid and alloisocitric acid.

reactant | calcium hydroxide | 0.4 mole, Thirty grams | [OH-].[Ca+2].[OH-]
reactant | hydrochloric acid | Cl | ClH
reactant | isocitric acid | C(C(O)C(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | water | 200 mls | O | H2O
product | transaconitic acid | 60% yield | C(/C(=C\C(=O)O)/C(=O)O)C(=O)O | C6H6O6
